US08217185B2
Quinoline (27.5 μL, 0.232 mmol) and 10% Pd/BaSO4 (4.90 mg, 0.0461 mmol) were added to a stirred solution of (4E)-12-methyloxacyclotetradec-4-en-8-yn-2-one (256 mg, 1.16 mmol) in ethanol (20 mL). The reaction flask was flushed with argon followed by hydrogen, and the reaction mixture was stirred under hydrogen atmosphere at room temp. and ambient pressure. After 5 h, GC-monitoring indicated complete conversion, upon which the catalyst was filtered off through a pad of Celite and washed with ethanol. The solvent was removed under reduced pressure, and the resulting residue purified by chromatography on silica gel [30 g; pentane-Et2O (20:1); Rf=0.60 in pentane-Et2O (5:1)] to furnish (4E,8Z)-12-methyloxacyclotetradeca-4,8-dien-2-one (223 mg, 86%) as a colourless odoriferous liquid.

reactant | Quinoline | 0.232 mmol, 27.5 μL | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | (4E)-12-methyloxacyclotetradec-4-en-8-yn-2-one | 1.16 mmol, 256 mg | CC1CCC#CCC/C=C/CC(OCC1)=O | C14H20O2
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | Pd BaSO4 | 0.0461 mmol, 4.90 mg | [Pd].[O-]S(=O)(=O)[O-].[Ba+2]
product | (4E,8Z)-12-methyloxacyclotetradeca-4,8-dien-2-one | 223 mg, 86% | CC1CC\C=C/CC/C=C/CC(OCC1)=O | C14H22O2
